US04610983
In 300 ml of methylene chloride was dissolved 5 g of the DL-N-[β-(2-furyl)acryloyl]glutamic acid, and thereto were successively added 5.4 g of N-hydroxysuccinimide, 5 g of (3-methyl-2-butenyl)amine hydrochloride, 5 g of triethylamine and 9.6 g of dicyclohexylcarbodiimide at room temperature, and the resulting mixture was stirred for 6 hours. Subsequently, the precipitated dicyclohexylurea was removed by filtration, and the filtrate thus obtained was washed successively with 100 ml of diluted hydrochloric acid, 100 ml of a 5% aqueous sodium hydroxide solution and 100 ml of water, and then dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure to obtain 4 g (yield 51%) of DL-2-[β-(2-furyl)acrylamido]-N1,N5 -bis(3-methyl-2-butenyl)pentane-1,5-diamide having a melting point of 199°-203° C.

reactant | N-hydroxysuccinimide | 5.4 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | (3-methyl-2-butenyl)amine hydrochloride | 5 g | Cl.CC(=CCN)C
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 9.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-[β-(2-furyl)acryloyl]glutamic acid | O1C(=CC=C1)C=CC(=O)N[C@@H](CCC(=O)O)C(=O)O | C12H13NO6
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-[β-(2-furyl)acrylamido]-N1,N5 -bis(3-methyl-2-butenyl)pentane-1,5-diamide | yield 51% | O1C(=CC=C1)C=CC(=O)NC(C(=O)NCC=C(C)C)CCC(=O)NCC=C(C)C | C22H31N3O4
